US06268366B1
3-[(Benzyl-methyl-amino)-methyl]-4-methyl-benzene-1,2-diamine
2-[(Benzyl-methyl-amino)-methyl]-4-bromo-3-methyl-6-nitro-phenylamine (6 g, 16.5 mmol) was hydrogenated (Ra Ni, 3 g) in the presence of KOH (0.498N). Reaction mixture filtered and extracted in CHCl3 (200 mL) and washed with water and dried (MgSO4). Solvent evaporated to give a dark oil 4.19 g=99%. H-NMR: 1.96 (s, 3H), 2.08 (s, 3H), 3.36-3.39 (m, 4H), 4.23 (s, 2H), 4.73 (s, 2H), 6.18 (d, 1H, J=7.3 Hz), 6.33 (d, 1H, J=7.3 Hz), 7.21-7.26 (m, 5H).

reactant | 2-[(Benzyl-methyl-amino)-methyl]-4-bromo-3-methyl-6-nitro-phenylamine | 16.5 mmol, 6 g | C(C1=CC=CC=C1)N(C)CC1=C(C(=CC(=C1C)Br)[N+](=O)[O-])N | C16H18BrN3O2
reactant | KOH | 0.498N | [OH-].[K+]
catalyst | Ni | [Ni] | Ni
product | 3-[(Benzyl-methyl-amino)-methyl]-4-methyl-benzene-1,2-diamine | 4.19 g | C(C1=CC=CC=C1)N(C)CC1=C(C(=CC=C1C)N)N | C16H21N3
